US06340759B1
(198-1) 2-(4-Vinylphenoxy)ethanol
4-Hydroxybenzaldehyde (3.664 g) was dissolved in N,N-dimethylformamide (60 ml), followed by the addition of 60% sodium hydride (1.44 g) under ice-cooling. The resulting mixture was stirred at room temperature for 40 min. To the mixture was added (2-bromoethoxy)-t-butyldimethylsilane (8.612 g), and the resulting mixture was stirred at 100° C. for 30 min. After the mixture was cooled as it was, it was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was dissolved in N,N-dimethylformamide (70 ml), followed by the addition of (ethyl)triphenylphosphonium bromide (13.218 g) and 60% sodium hydride (1.623 g) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, extracted with hexane extraction, and then the resulting organic layer was evaporated. The resulting residue was dissolved in tetrahydrofuran (50 ml), followed by the addition of 2N hydrochloric acid (20 ml) and stirring for 1 hr. The reaction mixture was extracted with ethyl acetate, and the resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a colorless solid (3.025 g, yield; 60%).

reactant | 4-Hydroxybenzaldehyde | 3.664 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | (2-bromoethoxy)-t-butyldimethylsilane | 8.612 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(4-Vinylphenoxy)ethanol | 3.025 g, yield; 60% | C(=C)C1=CC=C(OCCO)C=C1 | C10H12O2
